US04695573
9-(3-Phenoxypropylamino)-1,2,3,4-tetrahydroacridin-1-ol
In 100 ml of dry THF was dissolved 2.47 g of 3,4-dihydro-9-(3-phenoxypropyl)aminoacridin-1(2H)-one. The mechanically stirred solution was cooled in ice under nitrogen and 3.6 ml of 1M LiAlH4 in THF was added dropwise over 5 minutes. After 0.5 hour the reaction was complete by TLC. The reaction was neutralized with 1 ml of saturated ammonium chloride solution and the inorganic salts were filtered off. The filtrate was evaporated to an oil which solidified when triturated with pentane. The solid was recrystallized from 1:1 dichloromethane/pentane to yield after drying 2.17 g of product, mp 138°-140° C.

reactant | 3,4-dihydro-9-(3-phenoxypropyl)aminoacridin-1(2H)-one | 2.47 g | O(C1=CC=CC=C1)CCCNC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C22H22N2O2
reactant | LiAlH4 | 1M, 3.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9-(3-Phenoxypropylamino)-1,2,3,4-tetrahydroacridin-1-ol | O(C1=CC=CC=C1)CCCNC=1C2=CC=CC=C2N=C2CCCC(C12)O | C22H24N2O2
